US05977105
(2R)-1-(4'-Chlorobiphenyl-4-yloxy)-4-(3-pyridyl)-2butanol
Prepared according to the method described in Example 65 from (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol (0.25 g), 4-chlorobenzeneboronic acid (0.180 g) and tetrakis(triphenylphosphine)palladium(0) (40 mg) in toluene (5 ml), aqueous sodium carbonate (2 M, 1 ml) and ethanol (1 ml) with heating at reflux for 4 hours. The residue obtained after work up was purified by column chromatography over silica eluting with ethyl acetate to give the title compound as a white solid (0.104 g).

reactant | (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol | 0.25 g | BrC1=CC=C(OC[C@@H](CCC=2C=NC=CC2)O)C=C1 | C15H16BrNO2
reactant | 4-chlorobenzeneboronic acid | 0.180 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2 M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R)-1-(4'-Chlorobiphenyl-4-yloxy)-4-(3-pyridyl)-2butanol | 0.104 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OC[C@@H](CCC=1C=NC=CC1)O | C21H20ClNO2
